US04917719
3-Chloro-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-4-isothiazolesulfonamide (I; R5 =Cl Z=CH, X=Y=CH3)
A 10 ml portion of the methylene chloride solution of 3-chloro-4-isothiazolesulfonyl isocyanate, prepared in Example 2, was added to 0.2 g of 4.6-dimethyl-2-pyrimidinamine, and the mixture stirred 0.5 hour at ambient temperature. The solvent was evaporated and the residual solid triturated with ether, collected and dried giving 0.5 g of the title compound, m.p. 136°-140°. IR: 1720 and 1700 cm-1 (C=O).

reactant | 3-chloro-4-isothiazolesulfonyl isocyanate | ClC1=NSC=C1S(=O)(=O)N=C=O | C4HClN2O3S2
reactant | 4.6-dimethyl-2-pyrimidinamine | 0.2 g | CC1=NC(=NC(=C1)C)N | C6H9N3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Chloro-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-4-isothiazolesulfonamide | 0.5 g | ClC1=NSC=C1S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)C)C | C10H10ClN5O3S2
